US07220771B2
B. 3-(4-Methoxyphenyl)-1H-indazole
A mixture of 3-bromo-1H-indazole (0.20 g, 1.0 mmol), 4-methoxyphenylboronic acid (0.228 g, 1.5 mmol), and tetrakis(triphenylplhosphine)palladium(0) (0.228 g, 0.1 mmol) in ethylene glycol dimethyl ether (5 mL) and 2.0 M sodium carbonate solution (6 mL) under nitrogen was heated at 100° C. for 18 hours. It was quenched by water and extracted with chloroform. The extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was then purified by chromatography (SiO2, 15–30% ethyl acetate/hexane) to provide the title compound (0.012 g, 5% yield): 1N NMR (CDCl3) δ 10.4 (br s, 1H), 8.01 (d, 1H), 7.92 (d, 2H), 7.46 (m, 2H), 7.22 (m, 1H), 7.06 (d, 2H), 3.89 (s, 3H); EI-MS (m/z) 224 [M]+.

reactant | 3-bromo-1H-indazole | 1.0 mmol, 0.20 g | BrC1=NNC2=CC=CC=C12 | C7H5BrN2
reactant | 4-methoxyphenylboronic acid | 1.5 mmol, 0.228 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | sodium carbonate | 2.0 M, 6 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 3-(4-Methoxyphenyl)-1H-indazole | 0.012 g, 5% yield | COC1=CC=C(C=C1)C1=NNC2=CC=CC=C12 | C14H12N2O
